US07304073B2
(S)-3-[4-(3,5-dimethoxyphenyl)piperazin-1-yl]-2-[(S)-(2-methoxyphenyl)(1-naphthyl)methyl]-2-methyl-3-oxopropanenitrile
A solution of (S,S)2-cyano-3-(2-methoxy-phenyl)-2-methyl-3-naphthalen-1-yl-propionic acid (0.45 g, 1.30 mmol) in THF (150 mL) is treated with DMF (2 drops). Oxalyl chloride (0.16 mL, 1.84 mmol) is added dropwise in order to control gas evolution; when the gas evolution stopped the solution is heated to reflux for 5 minutes. The solution is cooled, the THF is evaporated in vacuo and the solid is dissolved in dry toluene (15 mL) and evaporated to a solid. This procedure is repeated twice. The acid chloride is dissolved in dichloromethane (10 mL) this is added to a solution of 1-(3,5-dimethoxy-phenyl)-piperazine (305 mg, 1.36 mmol) and a crystal of DMAP in dichloromethane (15 mL). This is followed by the dropwise addition of TEA (0.6 mL, 4.27 mmol). The reaction is stirred overnight. The reaction mixture is diluted with dichloromethane (50 mL), washed with aqueous HCl (10 mL 0.5 N) then saturated NaHCO3 (10 mL) and brine (10 mL). The sample is dried over NaSO4, filtered and concentrated in vacuo. Chromatography on silica gel using 30% ethyl acetate/hexanes provided 510 mg the title compound as a white solid. Recrystallization from ethyl acetate/hexanes yielded colorless needles. mp 186-188° C.; [α]D25=−153.91° (1%, CHCl3);

reactant | (S,S)2-cyano-3-(2-methoxy-phenyl)-2-methyl-3-naphthalen-1-yl-propionic acid | 1.30 mmol, 0.45 g | C(#N)[C@@](C(=O)O)([C@@H](C1=CC=CC2=CC=CC=C12)C1=C(C=CC=C1)OC)C | C22H19NO3
reactant | Oxalyl chloride | 1.84 mmol, 0.16 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-(3,5-dimethoxy-phenyl)-piperazine | 1.36 mmol, 305 mg | COC=1C=C(C=C(C1)OC)N1CCNCC1 | C12H18N2O2
solvent | THF | 150 mL | C1CCOC1 | C4H8O
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (S)-3-[4-(3,5-dimethoxyphenyl)piperazin-1-yl]-2-[(S)-(2-methoxyphenyl)(1-naphthyl)methyl]-2-methyl-3-oxopropanenitrile | 510 mg | COC=1C=C(C=C(C1)OC)N1CCN(CC1)C([C@@](C#N)(C)[C@@H](C1=CC=CC2=CC=CC=C12)C1=C(C=CC=C1)OC)=O | C34H35N3O4
